US04698340
A mixture of 5-acetyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (1.5 g), tetrahydrofuran (70 ml), sodium hypobromite (70 ml) was stirred for 2 hours at ambient temperature. To the mixture was added an aqueous sodium bisulfite solution. The mixture was washed with diethyl ether (100 ml) and the aqueous solution was acidified to pH 3.0 with 10% hydrochloric acid. The resultant crystals were collected by filtration to give 0.80 g of 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid.

reactant | 5-acetyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.5 g | C(C)(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H15N3O3
reactant | sodium hypobromite | 70 ml | Br[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid | 0.80 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C18H13N3O4
